US07115611B2
B] [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid
0.322 g (0.62 mmol) of the above prepared (2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid tert-butyl ester, containing some methyl ester, was dissolved in 3.8 ml of THF/EtOH=1/1, treated with 1.87 ml (3 eq.) of 1N NaOH, and kept at ambient temperature for 2 h. The reaction mixture was then poured onto crashed ice/HCl dil., extracted twice with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness to leave, after crystallization from AcOEt/hexane, 0.276 g of the title compound as off-white solid of mp. 115–117° C.

reactant | (2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H30F3NO3S
reactant | NaOH | 1N, 1.87 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 3.8 ml | C1CCOC1.CCO
product | [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)SC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C24H22F3NO3S
